US05763489
A mixture of (2R)-2-hydroxy-2-hydroxymethyl-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene (1.4 g) and N,N-diphenylcarbamoyl chloride (3 g) in pyridine (15 ml) was stirred at 100° C. for 12 hours, cooled to room temperature, and partitioned between ethyl acetate and 1N--HCl. The organic layer was washed with water, sat. NaHCO3, and brine. The dried solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel to give (2R)-2-hydroxy-2-(N,N-diphenylcarbamoyloxymethyl)-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene (1.3 g).

reactant | (2R)-2-hydroxy-2-hydroxymethyl-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene | 1.4 g | O[C@]1(CC2=CC=CC(=C2CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CO | C27H32O3Si
reactant | N,N-diphenylcarbamoyl chloride | 3 g | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | (2R)-2-hydroxy-2-(N,N-diphenylcarbamoyloxymethyl)-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene | 1.3 g | O[C@]1(CC2=CC=CC(=C2CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)COC(N(C1=CC=CC=C1)C1=CC=CC=C1)=O | C40H41NO4Si
